US08030305B2
Quinazolin-6-yl-acetic acid hydrazide (0.032 g, 0.158 mmol) and 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)-pyridazine (0.031 g, 0.158 mmol) were heated to 165° C. in butanol (2 mL) for five hours. The reaction was cooled to room temperature, evaporated in vacuo and purified via silica gel column chromatography eluting with 5% methanol in dichloromethane to give 0.0031 g (7%) of 6-[6-(1-methyl-1H -pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinazoline. 1H NMR (400 MHz, CD3OD) δ 8.45 (s, 1H), 8.29 (s, 1H), 8.06 (d, 2H, J=9.6 Hz), 7.60 (d, 2H, J=9.6 Hz), 7.55 (m, 1H), 7.17 (d, 1H, J=8.0 Hz), 6.08 (s, 1H), 4.58 (m, 2H), 3.89 (s, 3H). Mass spectrum (LCMS, ESI pos.): Calcd for C18H14N8; found: 343.3 (M+H).

reactant | Quinazolin-6-yl-acetic acid hydrazide | 0.158 mmol, 0.032 g | N1=CN=CC2=CC(=CC=C12)CC(=O)NN | C10H10N4O
reactant | 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)-pyridazine | 0.158 mmol, 0.031 g | ClC=1N=NC(=CC1)C=1C=NN(C1)C | C8H7ClN4
solvent | butanol | 2 mL | C(CCC)O | C4H10O
product | 6-[6-(1-methyl-1H -pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinazoline | 0.0031 g, 7% | CN1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=NC=NC1=CC2 | C18H14N8
